US07902367B2
Methyl 3-[3-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]carbonylaminomethyl]pyrrolidin-1-yl]benzoate
Using N-(pyrrolidin-3-yl methyl)-2-(4-chlorophenyl)-4-methylthiazole-5-carboxamide (168 mg, 0.500 mmol) and 3-(methoxycarbonyl)phenylboric acid (180 mg, 1.00 mmol), the same procedure was followed as in Example 2 to give 73.7 mg (31%) of the desired compound as a colorless powder.

reactant | N-(pyrrolidin-3-yl methyl)-2-(4-chlorophenyl)-4-methylthiazole-5-carboxamide | 0.500 mmol, 168 mg | N1CC(CC1)CNC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)Cl)C | C16H18ClN3OS
reactant | 3-(methoxycarbonyl)phenylboric acid | 1.00 mmol, 180 mg | COC(=O)C=1C=C(C=CC1)OB(O)O | C8H9BO5
product | Methyl 3-[3-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]carbonylaminomethyl]pyrrolidin-1-yl]benzoate | 73.7 mg, 31% | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)C(=O)NCC1CN(CC1)C=1C=C(C(=O)OC)C=CC1 | C24H24ClN3O3S
